US05663053
2,4,5-Triphenylimidazole (1.3 g) was added to a suspension of sodinto hydride (0.23 g) (50% dispersion in oil, washed with hexane) in dry dimethylformamide (40 ml ) under nitrogen. The reaction was stirred at 45° C. for 1.5 h, cooled and ethyl 7-bromoheptanoate (1.1 g) in dry dimethylformamide (10 ml) was added. The reaction was stirred at 50° C. for 5 h, cooled and water was carefully added. The solvent was removed in vacuo and the residue was dissolved in ethyl acetate (100 ml). The organic solution was washed with saturated sodium chloride solution (150 ml), water (100 ml), dried over anhydrous magnesium sulphate and evaporated to dryness in vacuo. The residue was chromatographed on silica gel eluted with a dichloro-methane:ethanol gradient to give 1-(6-ethoxy-carbonylhexyl)-2,4,5-triphenylimidazole (0.81 g, 41%) as an oil. Found: C, 79.74; H, 7.32; N, 6.12%; C30H32N2O2 requires: C, 79.61; H, 7.13; N, 6.19%.

reactant | 2,4,5-Triphenylimidazole | 1.3 g | C1(=CC=CC=C1)C=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H16N2
reactant | hydride | 0.23 g | [H-]
reactant | ethyl 7-bromoheptanoate | 1.1 g | BrCCCCCCC(=O)OCC | C9H17BrO2
reactant | water | O | H2O
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(6-ethoxy-carbonylhexyl)-2,4,5-triphenylimidazole | 0.81 g, 41% | C(C)OC(CCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)=C=O | C30H30N2O2
